US06002008
A solution of 3.15 ml (30 mmoles) of diethylamine in 15 ml of tetrahydrofuran was cooled in an ice bath and a solution of 729 mg (1.5 mmoles) of 4-bromo-but-2-enoic acid [4-(3-bromo-phenylamino)-3-cyano-quinolin-6-yl]-amide in 5 ml of N, N-di-methylformamide was added dropwise. Stirring and cooling were continued for 2 hours. Then 25 ml of water and 15 ml of ethyl acetate were added. The layers were separated and aqueous layer was extracted with 2-15 ml portions of 1:1 tetrahydrofuran-ethyl acetate. The combined organic layers were absorbed onto silica gel and chromatographed on silica gel. The column was eluted with a gradient of 1:19 to 1:4 methanol-methylene chloride to give 367 mg (51%) of 4-Diethylamino-but-2-enoic acid [4-(3-bromo-phenylamino)-3-cyano-quinolin-6-yl]-amide. The compound melted at 141-145 deg: mass spectrum (electrospray, m/e): M+H 478.0,480.0.

reactant | diethylamine | 30 mmoles, 3.15 ml | C(C)NCC | C4H11N
reactant | 4-bromo-but-2-enoic acid [4-(3-bromo-phenylamino)-3-cyano-quinolin-6-yl]-amide | 1.5 mmoles, 729 mg | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)NC(C=CCBr)=O)C#N | C20H14Br2N4O
reactant | water | 25 ml | O | H2O
reactant | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | N, N-di-methylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-Diethylamino-but-2-enoic acid [4-(3-bromo-phenylamino)-3-cyano-quinolin-6-yl]-amide | 367 mg, 51% | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)NC(C=CCN(CC)CC)=O)C#N | C24H24BrN5O
